US06900215B2
Trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester was coupled with 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as described in Example 1 to give 3-fluoro-5-(2-fluoro-5-nitrophenyl)pyridine as a white solid: δH (360 MHz, CDCl3) 7.39 (1H, t, J 9), 7.65 (1H, m), 8.31-8.36 (1H, m), 8.42 (1H, dd, J 7 and 3), 8.58 (1H, d, J 3), 8.67 (1H, d, J 1).

reactant | Trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester | FC=1C=C(C=NC1)OS(=O)(=O)C(F)(F)F | C6H3F4NO3S
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 3-fluoro-5-(2-fluoro-5-nitrophenyl)pyridine | FC=1C=NC=C(C1)C1=C(C=CC(=C1)[N+](=O)[O-])F | C11H6F2N2O2
